US08471005B2
7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (76.2 mg, 0.000261 mol), N,N-Diisopropylethylamine (0.0682 mL, 0.000392 mol) and N,N-Dimethyl-benzene-1,3-diamine (71.1 mg, 0.000522 mol) were dissolved in 2-Methoxyethanol (1.83 mL, 0.0232 mol) and the reaction was heated at 180° C. until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 3.73 mg of N-[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-N′,N′-dimethyl-benzene-1,3-diamine as a lyophilated powder. (M+H)=364.11. 1H NMR (400 MHz, CDCl3) δ 9.08 (s, 1H), 8.37 (d, 1H, J=9.60 Hz), 8.10 (s, 1H), 7.89 (d, 1H, J=7.58 Hz), 7.44 (m, 3H), 7.20 (d, 1H, J=4.80 Hz), 7.03 (d, 1H, J=4.54 Hz), 6.61 (m, 2H), 3.11 (s, 6H).

reactant | 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.000261 mol, 76.2 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C | C13H10ClN3OS
reactant | N,N-Diisopropylethylamine | 0.000392 mol, 0.0682 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethyl-benzene-1,3-diamine | 0.000522 mol, 71.1 mg | CN(C1=CC(=CC=C1)N)C | C8H12N2
reactant | 2-Methoxyethanol | 0.0232 mol, 1.83 mL | COCCO | C3H8O2
product | N-[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-N′,N′-dimethyl-benzene-1,3-diamine | 3.73 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N(C)C | C20H18ClN5
